US07935696B2
N-(5-(Cyclopropylcarbamoyl)-2-methylphenyl)-4-(6-fluoropyridin-3-yl)-3-methylthiophene-2-carboxamide
The title compound was prepared by coupling 4-bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)-3-methylthiophene-2-carboxamide with commercially available 6-fluoropyridin-3-ylboronic acid using the method described in Step B of Example 136 to afford a white solid (Example 199). HPLC Ret time=2.98 min. LCMS [M+H]+ 410.25.

reactant | 4-bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)-3-methylthiophene-2-carboxamide | BrC=1C(=C(SC1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C)C | C17H17BrN2O2S
reactant | 6-fluoropyridin-3-ylboronic acid | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
product | N-(5-(Cyclopropylcarbamoyl)-2-methylphenyl)-4-(6-fluoropyridin-3-yl)-3-methylthiophene-2-carboxamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C=1SC=C(C1C)C=1C=NC(=CC1)F)C | C22H20FN3O2S
